US09084794B2
(+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-5-yl)phenyl)acetamide
A solution of 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (0.273 mmol) in dry 1,4-dioxane (1.5 mL) was treated with quinolin-5-ylboronic acid (0.300 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.014 mmol) and 2M aq potassium carbonate (0.818 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 15 min. The resulting black mixture was diluted with water (50 mL) and brine (20 mL) and was extracted with ethyl acetate three times. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-9% methanol/dichloromethane) and chiral HPLC (Chromegachiral CC4, methanol) followed by lyophilization from water (w/25% acetonitrile) afforded the title compound as a white solid in >99% ee (30 mg, 21% yield). MS(ES)+ m/e 489.5 [M+H]+, αD=+38 deg (c=0.05, methanol).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.273 mmol | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H23BrFN3O3
reactant | quinolin-5-ylboronic acid | 0.300 mmol | N1=CC=CC2=C(C=CC=C12)B(O)O | C9H8BNO2
reactant | potassium carbonate | 0.818 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.014 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-5-yl)phenyl)acetamide | 21% yield | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)N)C2=C(C=C(C=C2)C2=C1C=CC=NC1=CC=C2)F)=O | C28H29FN4O3
